US05866589
To a mixture of 1-(1,1-dimethylethoxycarbonyl)-4-[N-methyl-N-(3-nitro-2-pyridinyl)amino]piperidine (International Publication No. WO 91/09849, PREPARATION 125, 5.17 g) in methanol (250 ml) under nitrogen is added palladium black (1.0 g), and the mixture is stirred under a hydrogen atmosphere (balloon) for 2 hrs, palladium black (1.0 g) being added after 1 hr. The mixture is then filtered and concentrated under reduced pressure to give 1-(1,1-dimethylethoxycarbonyl)-4-[N-methyl-N-(3-amino-2-pyridinyl)amino]piperidine. The concentrate is dissolved in absolute ethanol (50 ml) and treated with acetone (17 ml) and sodium cyanoborohydride (950 mg). The pH is adjusted to 5 with glacial acetic acid as measured on moistened pH test paper. The mixture is stirred at 20°-25° for 24 hrs during which additional sodium cyanoborohydride (300 mg) is added, the pH being adjusted after the addition. The mixture is then adjusted to pH 3.5 with 10% aqueous hydrochloric acid, neutralized with aqueous sodium hydroxide (5%) and concentrated to remove ethanol. The residue is diluted with methylene chloride (200 ml) and water (75 ml), the layers are separated, and the organic phase is washed with saturated aqueous potassium carbonate (75 ml) and saline (75 ml), dried over sodium sulfate, and concentrated to give the crude product which is chromatographed (silica gel, 70-230 mesh, 400 g; eluting with a gradient of methanol/chloroform (0.5/95.5-2/98)) to give the title compound, C,H,N: Anal. Calcd for C19H32N4O2 : C=65.49, H=9.26, N=16.08-found: C=65.34, H=9.34, N=15.98.

reactant | 1-(1,1-dimethylethoxycarbonyl)-4-[N-methyl-N-(3-nitro-2-pyridinyl)amino]piperidine | 5.17 g | CC(C)(OC(=O)N1CCC(CC1)N(C1=NC=CC=C1[N+](=O)[O-])C)C | C16H24N4O4
solvent | methanol | 250 ml | CO | CH4O
catalyst | palladium black | 1.0 g | [Pd] | Pd
catalyst | palladium black | 1.0 g | [Pd] | Pd
product | 1-(1,1-dimethylethoxycarbonyl)-4-[N-methyl-N-(3-amino-2-pyridinyl)amino]piperidine | CC(C)(OC(=O)N1CCC(CC1)N(C1=NC=CC=C1N)C)C | C16H26N4O2
